US07745475B2
tert-Butyl 3-({3-[4-(ethoxycarbonyl)phenoxy]-5-[(1S)-2-methoxy-1-methylethoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate
tert-Butyl 3-({3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate (391 mg, 1 mmol), ethyl-4-boronic acid benzoate (388 mg, 2.0 equiv), copper (II) acetate (363 mg, 2.0 equiv) and triethylamine (0.7 mL; 5.0 equiv) were suspended in dry DCM over freshly activated powdered 4A molecular sieves (ca. 1 g) for 7 hours under an ambient atmosphere. Reaction mixture filtered through diatomaceous earth was washed with DCM (×3). Filtrate concentrated in vacuo, taken up in ethyl acetate and washed with 1M hydrochloric acid, saturated sodium hydrogen carbonate, saturated brine and dried (MgSO4). Filtered, filtrate concentrated in vacuo and chromatographed (0-50% ethyl acetate/isohexane) to give a brown oil (210 mg, 39%).

reactant | tert-Butyl 3-({3-hydroxy-5-[(1S)-2-methoxy-1-methylethoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate | 1 mmol, 391 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)O[C@H](COC)C | C19H25N3O6
reactant | triethylamine | 0.7 mL, 5.0 equiv | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 363 mg, 2.0 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | tert-Butyl 3-({3-[4-(ethoxycarbonyl)phenoxy]-5-[(1S)-2-methoxy-1-methylethoxy]benzoyl}amino)-1H-pyrazole-1-carboxylate | 210 mg, 39% | C(C)OC(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C(=O)OC(C)(C)C)C=C(C2)O[C@H](COC)C)C=C1 | C28H33N3O8
